US06936612B2
4-[6-(8-Cyclopentyl-6-fluoro-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (0.195 g, 0.38 mmol) prepared as in Example 17, was dissolved in 1:1 chloroform/methanol (8 ml), purged with anhydrous hydrogen chloride gas and stirred for 2.5 hours at room temperature. To the mixture was added diethyl ether (15 ml) giving a precipitate that was filtered, washed with ether and dried in vacuo to provide 8-cyclopentyl-6-fluoro-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride as a yellow solid (0.177 g, 88%). MS (APCI); M++1: Calc, 410.46. Found, 410.3. Analyses for C21H24N7O.1.0 H2O.2.0HCl: Calc'd: C, 50.73; H, 5.75; N, 19.46; Cl (ionic), 13.77; H2O, 1.41. Found: C, 50.41; H, 5.64; N, 19.59; Cl (ionic), 14.16; H2O, 3.60.

reactant | 4-[6-(8-Cyclopentyl-6-fluoro-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.38 mmol, 0.195 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2)F)=O)C2CCCC2 | C26H32FN7O3
reactant | chloroform methanol | 8 ml | C(Cl)(Cl)Cl.CO
product | 8-cyclopentyl-6-fluoro-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride | 0.177 g, 88% | Cl.C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)F)=O | InChI=1S/C21H24FN7O.ClH/c22-17-11-14-12-25-21(27-19(14)29(20(17)30)15-3-1-2-4-15)26-18-6-5-16(13-24-18)28-9-7-23-8-10-28;/h5-6,11-13,15,23H,1-4,7-10H2,(H,24,25,26,27);1H
